US05665719
To a stirred solution of 3-hydroxypiperidine hydrochloride (5.0 g, 36.3 mmol) in DMF (100 mL) was added DIEA (7.0 mL, 40.0 mmol). The solution was cooled to 0° C., and di-tertbutyldicarbonate (7.14 g, 32.7 mmol) was added to the reaction mixture. The reaction was stirred for 6 hours and then warmed to ambient temperature. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate, washed with 5% citric acid (75 mL), and water (75 mL). The organic layer was dried (MgSO4), filtered, and the solvent was evaporated under reduced pressure. 1-tert-Butyloxyhydroxypiperidine was obtained as a white solid and used without further purification.

reactant | 3-hydroxypiperidine hydrochloride | 36.3 mmol, 5.0 g | Cl.OC1CNCCC1
reactant | DIEA | 40.0 mmol, 7.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tertbutyldicarbonate | 32.7 mmol, 7.14 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-tert-Butyloxyhydroxypiperidine | C(C)(C)(C)ON1C(CCCC1)O | C9H19NO2
